US04975452
A. 1-Bromo-4-[2-[[dimethyl(1,1,2-trimethylpropyl)silyl]oxy]-ethyl]benzene
This intermediate (hereinafter "intermediate A") was prepared in two steps. 4-Bromophenylacetic acid underwent diborane (B2H6) reduction. A solution of the resulting alcohol then underwent silylation with sodium hydride (NaH) and thexyl dimethyl silyl chloride.

reactant | 4-Bromophenylacetic acid | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | sodium hydride | [H-].[Na+]
reactant | thexyl dimethyl silyl chloride | C(C)(C)(C(C)C)[Si](C)(C)Cl | C8H19ClSi
product | 1-Bromo-4-[2-[[dimethyl(1,1,2-trimethylpropyl)silyl]oxy]-ethyl]benzene | BrC1=CC=C(C=C1)CCO[Si](C(C(C)C)(C)C)(C)C | C16H27BrOSi
